US06359138B1
(RS)-Toluene-4-sulfonic Acid 6-methoxy-1,2,3.4-tetrahydro-naphthalen-2-ylmethyl Ester
(RS)-(6-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-methanol (939 mg, 4.88 mmol), p-toluenesulfonyl chloride (934 mg, 4.9 mmol), triethylamine (1.12 ml, 7.88 mmol) and N,N-dimethyl aminopyridine (10 mg) in CH2Cl2 (10 ml) was stirred together at ambient temperature for 24 hr. Acidification with 1N HCl (pH 1-2), extraction of the aqueous phase with CH2Cl2 (2×20 ml), drying (Na2SO4) filtration and evaporation afforded the crude product which wag chomatographed over SiO2 (Merck 230-400 mesh) eluting with EtOAc-n-Hexane (1:3) to afford the title compound as a colourless oil (1.37 g, 3.95 mmol, 81%), MS m/e=346.1 (M+).

reactant | (RS)-(6-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-methanol | 4.88 mmol, 939 mg | COC=1C=C2CCC(CC2=CC1)CO | C12H16O2
reactant | p-toluenesulfonyl chloride | 4.9 mmol, 934 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 7.88 mmol, 1.12 ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | (RS)-Toluene-4-sulfonic Acid 6-methoxy-1,2,3.4-tetrahydro-naphthalen-2-ylmethyl Ester | 3.95 mmol, 1.37 g, 81% | COC=1C=C2CCC(CC2=CC1)COS(=O)(=O)C1=CC=C(C=C1)C | C19H22O4S
